US04299821
4.02 g (8 mmoles) of Z-Glp-Ser(tBu)-Pro-NH2 are dissolved in 160 ml of methanol, 0.8 g of a 10% palladium-on-carbon catalyst are added, and hydrogen is bubbled through the mixture for 30 minutes. The catalyst is filtered off, the filtrate is evaporated, and the residue is covered with ether and allowed to crystallize. The crystals are filtered off to obtain 2.50 g (85%) of Glp-Ser(tBu)-Pro-NH2 ; m.p.: 186°-187° C., Rf4 =0.45, [α]D25 =-60.8° (c=1%, in acetic acid). Amino acid analysis: Glu: 1.03 (1.0), Ser: 1.00 (1.0), Pro: 1.00 (1.0).

reactant | Z-Glp-Ser(tBu)-Pro-NH2 | 8 mmoles, 4.02 g | N1([C@@H](CCC1=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OCC1=CC=CC=C1 | C25H34N4O7
solvent | methanol | 160 ml | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | Glp-Ser(tBu)-Pro-NH2 | 2.50 g, 85% | N1[C@@H](CCC1=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)N1[C@H](C(=O)N)CCC1 | C17H28N4O5
